US04987244
Following the procedure of Example 1, dibutyltin oxide was reacted with 33.2 g (0.2 mole) 3-(4-hydroxyphenyl)propionic acid to yield 56 g of dibutyltin bis-(3-(4-hydroxyphenyl)propionatel, a white crystalline material melting at 48°-50° C.

reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
reactant | 3-(4-hydroxyphenyl)propionic acid | 0.2 mole, 33.2 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
product | dibutyltin | 56 g | C(CCC)[Sn]CCCC | InChI=1S/2C4H9.Sn/c2*1-3-4-2;/h2*1,3-4H2,2H3;
